US03933804
EXAMPLE 43: 5-[(5-Isopropoxy-3-methyl-2-pentenyloxy)-methyl]-1,3-benzodioxol (according to process a)
8.0 g (0.2 mol) of sodium hydroxide are added to a solution of 30.4 g (0.2 mol) of 3,4-methylendioxy-benzylalcohol in 300 cc of benzene. The mixture is heated while stirring vigorously and kept at reflux temperature whereby the water condensing in a refrigerator is separated by means of a water separator. After 24 hours 35.3 g (0.2 mol) of 1-chloro-5-isopropoxy-3-methyl-2-pentene are added dropwise during the course of 1 hour and the mixture is stirred under reflux for a further 16 hours.

reactant | sodium hydroxide | 0.2 mol, 8.0 g | [OH-].[Na+]
reactant | 3,4-methylendioxy-benzylalcohol | 0.2 mol, 30.4 g | C1OC=2C=C(CO)C=CC2O1 | C8H8O3
reactant | water | O | H2O
reactant | 1-chloro-5-isopropoxy-3-methyl-2-pentene | 0.2 mol, 35.3 g | ClCC=C(CCOC(C)C)C | C9H17ClO
solvent | benzene | 300 cc | C1=CC=CC=C1 | C6H6
product | 5-[(5-Isopropoxy-3-methyl-2-pentenyloxy)-methyl]-1,3-benzodioxol | C(C)(C)OCCC(=CCOCC1=CC2=C(OCO2)C=C1)C | C17H24O4
